US06482849B1
N-(tert-butoxycarbonyl)-L-histidine methyl ester (1.0 g) was added to a solution of 2,4-dichlorobenzyl chloride (0.73 g) and Et3N (0.27 g) in benzene (10 ml) and the mixture was heated under reflux for 1 hr. The mixture was cooled and the precipitate was removed by filtration. The filtrate was washed with H2O, dried over Na2SO4, and the solvent was removed in vacuo. The residue was purified by column chromatography on silica gel (eluent; 95:5, CHCl3/MeOH) to give N-(tert-butoxycarbonyl)-1-[(2,4-dichlorophenyl)methyl]-L-histidine methyl ester. The obtained compound was treated in a similar manner as described in R. Example 4 to give 1-[(2,4-Dichlorophenyl)methyl]-L-histidine methyl ester, dihydrochloride salt.

reactant | N-(tert-butoxycarbonyl)-L-histidine methyl ester | 1.0 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC=N1)=O | C12H19N3O4
reactant | 2,4-dichlorobenzyl chloride | 0.73 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | Et3N | 0.27 g | CCN(CC)CC | C6H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-(tert-butoxycarbonyl)-1-[(2,4-dichlorophenyl)methyl]-L-histidine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN(C=N1)CC1=C(C=C(C=C1)Cl)Cl)=O | C19H23Cl2N3O4
